Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Prednisone
 
Attending: ___.
 
Chief Complaint:
Word finding difficulties
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ M w/ PMH HLD, PVCs, HTN, GERD presents with episode of word
finding.

He was in a car accident last week, on ___. was driver, Was
on Masspike, and traffic was slowing to a standstill, the car
behind him rearended him. Felt dazed. Doesn't remember head
clearly hitting anything. No LOC. No amnestic period. No airbag
deployment. The night before he was also in a minor fender
bender, was rear-ended. Felt ok the next day. No head strike on
this one.

He reports having some concussion symptoms the last few days, he
feels fatigued, lights bothering him, slight headache, sleepier
than usual, no short term memory issues. He did have some neck
pain, that is ongoing.

___ morning, he woke up, and exercised. Then he began feeling
foggy, saw his PCP who told him he had a concussion. He went 
home
and has been resting. Has been having a small headache, using a
computer bothers him. Woke up this morning around 7am, had tea,
ate breakfast, then suddenly had ___ minutes where he had a hard
time searching for words or articulating words. When he arrived
to the ED he felt less lucid compared to usual, and words 
weren't
flowing quite as well. No other associated symptoms. His speech
was broken up he feels during that period. He felt like he
understood people during this. His wife asked him to repeat
sentences of increasing complexity, which he had difficulty 
with.
He felt like the process between retrieving a word and producing
the word was interrupted. He says he couldn't say "are you going
to call your mother at her assisted care facility this morning"
instead he said "call....  mother... trouble talking, can't 
talk"
He felt he could not say all the words in a given sentence. He
feels this overall was similar to 2 previous episodes he had, as
detailed below. He states this time it was longer than before, 
by
a few minutes. He timed the length of the episode today. He has 
a
difficult time further describing the episode. He feels it was
effortful to say things. It takes longer to think of the right
word he wants to use. Other times he knows what word but can't
say it. 

In prior episodes he felt back to baseline right away. He felt
like in the ED today he was still not back to baseline right
away, still with some slight difficulties with using the right
word.

He had a mild headache when he woke up this morning, has been on
and off since accident.  No nausea/vomiting. Does not recall
having headaches with his previous episodes.

He saw Dr. ___ in stroke clinic in ___ as a second opinion.
He has had two similar episodes in the past.

Dr. ___ description as below:
The first episode occurred ___ years ago
"He was on a conference call.  It was in the morning.  He does
not remember if he had spoken before this event or not, but he
remembers having great difficulty in speaking, getting anything
out, or making any intelligible sounds.  He did not have any
difficulty with understanding what people said and he thought he
might have been able to write.  He is not sure how long it
lasted, maybe at most ___ minutes.  Others did not seem to
comment on it and immediately afterward he went to a colleague
who was outside and said I cannot talk and they took him to the
hospital" Was hospitalized ___ days, states he had a lot of
tests.

He had a ___ episode in ___ of this year.  At that time, it was in the morning,
he was in the kitchen, his wife was in the kitchen, but was not
looking directly at him and he remembers trying to say honey and
then say something and nothing much came out as far as he could
tell.  He thinks it may have lasted one or two minutes.  His 
wife
did not seem to notice and shortly thereafter, he was able to
work and type and speak normally.  "

He initially saw Dr. ___ evaluation of these episodes.
MRI/MRA done at ___, unremarkable. It also appears that a
routine EEG was done to evaluate as well, however I am not able
to view the results today. This was presumably normal, as he was
not started on anything. He does not distinctly recall getting 
an
EEG done. There was suspicion this could have been a complicated
migraine or seizure. TIA felt less likely given the timeline. 
Dr.
___ it was most likely a benign process, as there were
relatively stereotyped episodes separated by ___ years. 

Stopped aspirin a few months ago, he does not remember who told
him to stop taking it, maybe GI, he had a EGD a few weeks ago,
since he was taking a lot of NSAIDs for back pain. It seems it
may have been paused for endoscopy 

 
Past Medical History:
HLD
PVCs
HTN
cervical radiculopathy
GERD

 
Social History:
Country of Origin:  ___                                 
Marital status:     Married                                     
Children:           Yes: 2                                      
Lives with:         ___                            
Work: ___
Sexual Abuse:       Denies                                      
Domestic violence:  Denies                                      
Tobacco use:        Former smoker                               
Tobacco Use         age ___                                   
Comments:                                                       
Alcohol use:        Present                                     
drinks per week:    ___                                         
Alcohol use         beer or wine                                
comments:                                                       
Recreational drugs  Denies                                      
(marijuana, heroin,                                             
crack pills or                                                  
other):                                                         
Depression:         Based on a PHQ-2 evaluation, the patient    
                    does not report symptoms of depression      
Exercise:           Activities: 4 days a week                   
Diet:               discussed healthy diet                      
___ belt/vehicle   Always                                      
restraint use:                                           
 
Family History:
Relative Status   Age Problem              Onset Comments       
Mother   ___     BREAST CANCER                             

Father   ___     LUNG CANCER                heavy smoker   

MGM                   ACUTE MYOCARDIAL           age ___         
                      INFARCTION                                

PGF                   ACUTE MYOCARDIAL           age ___         
                      INFARCTION                                

 
Physical Exam:
PHYSICAL EXAMINATION on admission: 

Vitals: T98.1 HR52 BP151/88 RR17 Spo296% RA 

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented ___. Aware of current 
events
from this week ___ talks, impeachment, ___ pull out,
democratic debates, ___ Able to relate history without
difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition to complex
sentence and comprehension. Normal prosody. There were no
paraphasic errors. Able to name both high and low frequency
objects. Able to read without difficulty. No dysarthria. Able to
follow both midline and appendicular commands. ___ ___ at 5
minutes spontaneous, ___ with multiple choice. There was no
evidence of apraxia or neglect. 

-Cranial Nerves:
II, III, IV, VI: PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing. 

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
 [___]
L 5      5     5   5    5    ___     5    5   5    5
R 5      5     5   5    5    ___     5    5   5    5 

-Sensory: No deficits to light touch, pinprick, temperature,
vibration, or proprioception throughout. No extinction to DSS.
Romberg absent. 

-Reflexes:

 [Bic] [Tri] [___] [Pat] [Ach]
L 2      2      2     2      1
R 2      2      2     2      1 

Plantar response was flexor bilaterally. 

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally. 

-Gait: Good initiation. Narrow-based, normal stride and arm
swing. Able to walk in tandem without difficulty. 

Physical examination on discharge

PHYSICAL EXAMINATION: 

Vitals: T98.5 HR62 BP145/86 RR18 Spo2 97% RA 

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented ___. Able to relate history 
without
difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition to complex
sentence and comprehension. Normal prosody. There were no
paraphasic errors. Able to name both high and low frequency
objects. Able to read without difficulty. No dysarthria. Able to
follow both midline and appendicular commands. 

-Cranial Nerves:
II, III, IV, VI: PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing. 

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
 [___]
L 5      5     5   5    5    ___     5    5   5    5
R 5      5     5   5    5    ___     5    5   5    5 

-Sensory: No deficits to light touch, pinprick, temperature,
vibration, or proprioception throughout. No extinction to DSS.
Romberg absent. 

-Reflexes:

 [Bic] [Tri] [___] [Pat] [Ach]
L 2      2      2     2      1
R 2      2      2     2      1 

Plantar response was flexor bilaterally. 

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally. 

-Gait: Good initiation. Narrow-based, normal stride and arm
swing. Able to walk in tandem without difficulty. 

 
Pertinent Results:
___ 10:26AM   %HbA1c-5.7 eAG-117
___ 05:45AM BLOOD WBC-5.3 RBC-4.50* Hgb-14.6 Hct-44.3 
MCV-98 MCH-32.4* MCHC-33.0 RDW-13.0 RDWSD-46.6* Plt ___
___ 10:19AM BLOOD WBC-6.9 RBC-4.88 Hgb-15.8 Hct-47.2 MCV-97 
MCH-32.4* MCHC-33.5 RDW-13.0 RDWSD-46.5* Plt ___
___ 10:19AM BLOOD Neuts-65.6 ___ Monos-9.1 Eos-1.6 
Baso-0.3 Im ___ AbsNeut-4.54 AbsLymp-1.57 AbsMono-0.63 
AbsEos-0.11 AbsBaso-0.02
___ 05:45AM BLOOD Plt ___
___ 05:45AM BLOOD ___ PTT-33.0 ___
___ 10:26AM BLOOD ___ PTT-32.9 ___
___ 10:19AM BLOOD Plt ___
___ 05:45AM BLOOD Glucose-96 UreaN-16 Creat-1.1 Na-142 
K-4.6 Cl-102 HCO3-28 AnGap-12
___ 10:19AM BLOOD Glucose-82 UreaN-15 Creat-1.0 Na-141 
K-4.5 Cl-102 HCO3-24 AnGap-15
___ 05:45AM BLOOD ALT-20 AST-17 CK(CPK)-36* AlkPhos-73 
TotBili-0.6
___ 10:19AM BLOOD ALT-24 AST-20 AlkPhos-79 TotBili-0.5
___ 10:19AM BLOOD Lipase-32
___ 05:45AM BLOOD Calcium-8.9 Phos-3.3 Mg-2.1 Cholest-166
___ 10:19AM BLOOD Albumin-4.8 Calcium-9.6 Phos-3.0 Mg-1.9
___ 05:45AM BLOOD %HbA1c-5.4 eAG-108
___ 10:26AM BLOOD %HbA1c-5.7 eAG-117
___ 05:45AM BLOOD Triglyc-125 HDL-57 CHOL/HD-2.9 LDLcalc-84
___ 10:19AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 10:19AM BLOOD HoldBLu-HOLD
 
Brief Hospital Course:
___ M w/ PMH HLD, PVCs, HTN, GERD presents with 6 minute speech 
disturbance. Had 2 episodes in the past as well. Woke up on 
___ around 7am, had tea, ate breakfast, then 
suddenly had ___ minutes where he had a hard time searching for 
words or articulating words. Patient had ___ MVAs within a 24 hour 
period 1 week prior. Both MVAs were very similar. The car behind 
him rearended him at slow speed. No head trauma or LOC. For the 
next few days he was complaining for intermittent minor 
generalized headache and pain on the back of his neck during the 
day. He had a CT, CTa, MRI of the head that did not show any 
strokes. 

As mentioned, he had 2 similar episodes of word finding 
difficulties in the past. Based on his imaging study results and 
his presentation, TIA was felt less likely. An 60 min EEG was 
done and did not show any epileptiform activity during sleep and 
wakefulness. No seizures were captured. He reports history of 
headaches. Complex migraines can give similar presentation. 
Tizanidine was prescribed for the neck stiffness. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 50 mg PO QHS 
2. Atorvastatin 10 mg PO QHS 
3. Omeprazole 40 mg PO BID 
4. Sildenafil 20 mg PO ONCE PRN er 
5. Flecainide Acetate 50 mg PO TID 
6. ClonazePAM 3 mg PO BID:PRN anxiety 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q4H:PRN pain or temp > ___  
2.  Tizanidine 4 mg PO Q8 PRN Muscle ache Duration: 5 Days 
RX *tizanidine 4 mg 1 tablet(s) by mouth Q8 PRN Disp #*15 Tablet 
Refills:*0 
3.  Atenolol 50 mg PO QHS  
4.  Atorvastatin 10 mg PO QHS  
5.  ClonazePAM 3 mg PO BID:PRN anxiety  
6.  Flecainide Acetate 50 mg PO TID  
7.  Omeprazole 40 mg PO BID  
8.  Sildenafil 20 mg PO ONCE PRN er  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Complex migraine

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized due to symptoms of difficulty 
speakingresulting from an complex migraine.

Migraines are a kind of headache that can also involve other 
symptoms. Migraines can affect both adults and children. They 
are more common in women than in men. Migraines often start off 
mild and then get worse.

Symptoms can include:

Headache – The headache gets worse over several hours and is 
usually throbbing. It often affects 1 side of the head.

Nausea and sometimes vomiting

Feeling sensitive to light and noise – Lying down in a quiet, 
dark room often helps.

Aura – Some people have something called a migraine "aura." An 
aura is a symptom or feeling that happens before or during the 
migraine headache. Each person's aura is different, but in most 
cases the aura affects the vision. You might see flashing 
lights, bright spots, or zig-zag lines, or lose part of your 
vision. Or you might have numbness and tingling of the lips, 
lower face, and fingers of 1 hand. Some people hear sounds or 
have ringing in their ears as part of their aura. The aura 
usually lasts a few minutes to an hour and then goes away, but 
most often lasts 15 to 30 minutes.

Your risk factors for a stroke or a TIA are:
Hypertension
Hyperlipidemia

We are changing your medications as follows:

Start  Tizanidine for muscle tension

Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team

 
Followup Instructions:
___